US08350044B2
Preparation of N-(2,4-dichloro-thiazol-5-yl)-N-methyl-3-methylsulfanyl-propionamide
To a solution of N-(2,4-dichloro-thiazol-5-yl)-3-methylsulfanyl-propionamide (596 mg, 2.2 mmol) in DMF (11 mL) stirring at 25° C. was added K2CO3 (365 mg, 2.64 mmol) and iodomethane (375 mg, 1.2 mmol), the solution was stirred at 25° C. for 20 h. The solution was diluted with 50 mL H2O and extracted with ethyl acetate (3×20 mL). The combined organic extracts were washed with H2O (3×20 mL), dried over Na2SO4, filtered and concentrated to dryness under reduced pressure. The crude product was purified by silica gel chromatography (0 to 100% ethyl acetate/hexanes) to give the desired product as a clear oil (273 mg, 44%): 1H NMR (300 MHz, CDCl3) δ 3.23 (s, 3H), 2.79 (t, J=7.2 Hz, 2H), 2.52 (t, J=7.2 Hz, 2H), 2.09 (s, 3H); ESIMS m/z 285.1 (M+1).

reactant | N-(2,4-dichloro-thiazol-5-yl)-3-methylsulfanyl-propionamide | 2.2 mmol, 596 mg | ClC=1SC(=C(N1)Cl)NC(CCSC)=O | C7H8Cl2N2OS2
reactant | K2CO3 | 2.64 mmol, 365 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 1.2 mmol, 375 mg | IC | CH3I
solvent | DMF | 11 mL | CN(C)C=O | C3H7NO
solvent | H2O | 50 mL | O | H2O
product | N-(2,4-dichloro-thiazol-5-yl)-N-methyl-3-methylsulfanyl-propionamide | 273 mg, 44% | ClC=1SC(=C(N1)Cl)N(C(CCSC)=O)C | C8H10Cl2N2OS2
